US06903173B2
The materials flowed through the first three zones facilitated by stirring paddles along the reaction path. Polymerization continued to substantially 100% completion by the end of zone 4, thereby forming a “living” polyisoprene reaction mixture. At the start of zone 4, the solution of diphenylethylene in cyclohexane, solids of about 12 wt %, was added by a reciprocating piston pump (at a rate of 10.0 ml/min) to the “living” polyisoprene reaction mixture. This resulted in addition of a diphenylethylene-modified polyisopropenyl chain. This chain was treated at the start of zone 5 with a purified solution of 2-(N-methylperfluorobutanesulfonamido)ethyl methacrylate in toluene, solids of 20 wt % (fed by a reciprocating piston pump at rates of 2 and 10 ml/min) to form poly(isoprene-2-(N-methylperfluorobutanesulfonamido)ethyl methacrylate) block copolymers. The overall solids content of these reactions was about 32 wt %. The total residence time for these reactions was about 25 minutes.

reactant | 2-(N-methylperfluorobutanesulfonamido)ethyl methacrylate | C(C(=C)C)(=O)OCCN(S(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C | C11H12F9NO4S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | isoprene 2-(N-methylperfluorobutanesulfonamido)ethyl methacrylate | C=CC(C)=C.C(C(=C)C)(=O)OCCN(S(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C | InChI=1S/C11H12F9NO4S.C5H8/c1-6(2)7(22)25-5-4-21(3)26(23,24)11(19,20)9(14,15)8(12,13)10(16,17)18;1-4-5(2)3/h1,4-5H2,2-3H3;4H,1-2H2,3H3
